US06380243B1
[4-(2-Methylsulfanyl-benzoylamino)-phenyl]-carbamic Acid tert-Butyl Ester
To a solution of 2-methylsulfanyl-N-[4-(2,2,2-trifluoro-acetylamino)-phenyl]-benzamide (234 mg) is added a saturated solution of sodium periodate (5 mL) and the mixture is stirred for 12 hours. The purple mixture is poured into water, extracted with ethyl acetate, dried over anhydrous potassium carbonate and evaporated to yield a red solid, 101 mg.

reactant | 2-methylsulfanyl-N-[4-(2,2,2-trifluoro-acetylamino)-phenyl]-benzamide | 234 mg | CSC1=C(C(=O)NC2=CC=C(C=C2)NC(C(F)(F)F)=O)C=CC=C1 | C16H13F3N2O2S
reactant | sodium periodate | 5 mL | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
product | [4-(2-Methylsulfanyl-benzoylamino)-phenyl]-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)NC(C1=C(C=CC=C1)SC)=O)=O | C19H22N2O3S
